US09216972B2
To a solution of (E)-ethyl 3-(1-(4-fluorophenyl)cyclohexyl)acrylate (Intermediate I-7B, 1.5 g, 5.43 mmol) in toluene (30 mL) was added 2.5 M DIBAL-H in toluene (6.51 mL, 16.28 mmol) dropwise at room temperature, and the mixture was stirred at the same temperature for 5.5 hrs. The reaction was quenched by dropwise addition of methanol (1.34 mL) and stirring was continued for a few minutes. Then water (1.96 mL) was added dropwise and the mixture was stirred overnight at room temperature. The resulting mixture was filtered through CELITE® and evaporated to give an oily residue. It was purified by Combiflash (silica gel, 40 g) eluting with 5:95 followed by 1:9 and 2:8 ethyl acetate-hexane to give the desired (E)-3-(1-(4-fluorophenyl)cyclohexyl)prop-2-en-1-ol (964 mg, 76% yield) along with 232 mg of the unreacted starting material. 1H NMR (400 MHz, CDCl3) δ ppm 7.30 (2H, dd, J=8.91, 5.39 Hz), 7.00 (2H, t, J=8.80 Hz), 5.70 (1H, d, J=15.85 Hz), 5.43 (1H, dt, J=15.74, 5.94, 5.83 Hz), 4.11 (2H, dd, J=5.72, 1.32 Hz), 1.97-2.05 (2H, m), 1.78-1.86 (2H, m), 1.53-1.63 (3H, m), 1.40-1.52 (5H, m).

reactant | (E)-ethyl 3-(1-(4-fluorophenyl)cyclohexyl)acrylate | 5.43 mmol, 1.5 g | FC1=CC=C(C=C1)C1(CCCCC1)/C=C/C(=O)OCC | C17H21FO2
reactant | DIBAL-H | 2.5 M | CC(C)C[AlH]CC(C)C
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 16.28 mmol, 6.51 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-3-(1-(4-fluorophenyl)cyclohexyl)prop-2-en-1-ol | 964 mg, 76% yield | FC1=CC=C(C=C1)C1(CCCCC1)/C=C/CO | C15H19FO
